US06727264B1
N-{3-[1-([1,1′-BIPHENYL]-4-YLMETHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using [1,1′-biphenyl]-4-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 413.2 (M+H)+.

reactant | [1,1′-biphenyl]-4-carbaldehyde | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-{3-[1-([1,1′-BIPHENYL]-4-YLMETHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | C1(=CC=C(C=C1)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C28H32N2O
